US06444686B1
Part A: Preparation of N-[1-(Methylthio)-2-nitroethenyl]-3-acetylbenzenamine
A neat mixture of 1,1-bismethylthio-2-nitroethylene (6.5 g, 38.5 mmol, 10 eq) and 3-aminoacetophenone (0.5 g, 3.85 mmol, leq) was melted together and heated at 140° C. for four hours. The mixture was cooled to room temperature, then subjected to flash chromatography, eluting with 50% ethyl acetate/hexanes, to yield 0.63 g of a yellow powder as product. Yield=65%. NMR (300 MHz, CDCl3) δ 11.82 (bs, 1H), 7.95-7.91 (m, 2H), 7.59-7.48 (m, 2H), 6.73 (s, 1H), 2.65 (s, 3H), 2.41 (s, 3H).

reactant | 1,1-bismethylthio-2-nitroethylene | 38.5 mmol, 6.5 g, 10 eq | CSC(=C[N+](=O)[O-])SC | C4H7NO2S2
reactant | 3-aminoacetophenone | 3.85 mmol, 0.5 g | CC(=O)C1=CC(=CC=C1)N | C8H9NO
product | N-[1-(Methylthio)-2-nitroethenyl]-3-acetylbenzenamine | 0.63 g, Yield=65% | CSC(=C[N+](=O)[O-])NC1=CC(=CC=C1)C(C)=O | C11H12N2O3S
